US06562811B1
A suspension of tert-butyl 3-{2-amino-6-[2,6-bis(benzyloxy)phenyl]-3-cyano-4-pyridinyl}-1-piperidinecarboxylate (3.46 g, 5.9 mmol) and Pd/C (10%, 600 mg) in ethyl acetate (50 mL) including acetic acid (5 mL) was stirred for 2 days at room temperature under a hydrogen atmosphere. The reaction mixture was diluted with THF (200 mL) and filtered through Celite®. The filtrate was concentrated under reduced pressure. The residue was washed with ethyl acetate and hexane, and dried under reduced pressure to give tert-butyl 3-[2-amino-3-cyano-6-(2,6-dihydroxy-phenyl)-4-pyridinyl]-1-piperidinecarboxylate (1.82 g, yield; 76%).

reactant | tert-butyl 3-{2-amino-6-[2,6-bis(benzyloxy)phenyl]-3-cyano-4-pyridinyl}-1-piperidinecarboxylate | 5.9 mmol, 3.46 g | NC1=NC(=CC(=C1C#N)C1CN(CCC1)C(=O)OC(C)(C)C)C1=C(C=CC=C1OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C36H38N4O4
reactant | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 600 mg | [Pd] | Pd
product | tert-butyl 3-[2-amino-3-cyano-6-(2,6-dihydroxy-phenyl)-4-pyridinyl]-1-piperidinecarboxylate | 1.82 g, yield; 76% | NC1=NC(=CC(=C1C#N)C1CN(CCC1)C(=O)OC(C)(C)C)C1=C(C=CC=C1O)O | C22H26N4O4
